US09359375B2
To a solution of (R)-2-(4-cyano-3,5-difluorophenylamino)-4-methylpentanamide (92 mg, 0.34 mmol) and 5-amino-3-methylisothiazole hydrochloride (70 mg, 0.46 mmol) in DMSO (2 mL), NaH (60% in mineral oil, 80 mg, 2.00 mmol) was added. H2 gas evolved. The mixture was stirred at 130 C for 1 h. After being acidified with HOAc (1.0 mL), the mixture was purified by HPLC to give (R)-2-(4-cyano-3-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-4-methylpentanamide (38 mg).

reactant | (R)-2-(4-cyano-3,5-difluorophenylamino)-4-methylpentanamide | 0.34 mmol, 92 mg | C(#N)C1=C(C=C(C=C1F)N[C@@H](C(=O)N)CC(C)C)F | C13H15F2N3O
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.46 mmol, 70 mg | Cl.NC1=CC(=NS1)C
reactant | NaH | 2.00 mmol, 80 mg | [H-].[Na+]
reactant | HOAc | 1.0 mL | CC(=O)O | C2H4O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (R)-2-(4-cyano-3-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-4-methylpentanamide | 38 mg | C(#N)C1=C(C=C(C=C1NC1=CC(=NS1)C)N[C@@H](C(=O)N)CC(C)C)F | C17H20FN5OS
